US06903215B2
To a 2 M ether/THF solution of 1,1,1-trifluoro-4-methylpent-3-en-2-one was added 3.8 g of copper (I) iodide and 10 mL of a 2 M ether solution of 4-fluorophenylmagnesium bromide at 0° C. The mixture was warmed to room temperature and stirred for 2 hours. The reaction was quenched with saturated aqueous NH4Cl, and extracted three times with EtOAc. The combined organic layers were washed with water, brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography to yield 460 mg of 1,1,1-trifluoro-4-(4-fluorophenyl)-4-methylpentan-2-one.

reactant | ether THF | 2 M | CCOCC.C1CCOC1
reactant | 1,1,1-trifluoro-4-methylpent-3-en-2-one | FC(C(C=C(C)C)=O)(F)F | C6H7F3O
reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
catalyst | copper (I) iodide | 3.8 g | [Cu]I
solvent | ether | 2 M | CCOCC | C4H10O
product | 1,1,1-trifluoro-4-(4-fluorophenyl)-4-methylpentan-2-one | 460 mg | FC(C(CC(C)(C)C1=CC=C(C=C1)F)=O)(F)F | C12H12F4O
